US08193349B2
To a solution of (3-oxo-cyclobutyl)-acetic acid methyl ester (700 mg, 4.92 mmol) in MeOH (20 ml), NaBH4 (205 mg, 5.41 mmol) is added at 0° C. The mixture is stirred at room temperature for 5 hours. To the mixture, H2O is added and a portion of MeOH is removed under reduced pressure. The mixture is extracted with AcOEt and the organic layer is dried over MgSO4, and concentrated under reduced pressure. The obtained residue is purified by silica gel column chromatography to give cis (3-hydroxy-cyclobutyl)-acetic acid methyl ester (578 mg, 80%); TLC (hexane/AcOEt, 1:1) Rf 0.38, 1H NMR (400 MHz, chloroform-d) δ ppm 1.56-1.65 (m, 1H), 1.76 (m, 1H), 2.08-2.16 (m, 2H), 2.44 (d, 2H), 2.51-2.59 (m, 2H), 3.66 (s, 3H), 4.16 (m, 1H).

reactant | (3-oxo-cyclobutyl)-acetic acid methyl ester | 4.92 mmol, 700 mg | COC(CC1CC(C1)=O)=O | C7H10O3
reactant | NaBH4 | 5.41 mmol, 205 mg | [BH4-].[Na+]
reactant | H2O | O | H2O
solvent | MeOH | 20 ml | CO | CH4O
product | cis (3-hydroxy-cyclobutyl)-acetic acid methyl ester | 578 mg, 80% | COC(C[C@@H]1C[C@@H](C1)O)=O | C7H12O3
